US04072705
Preparation of 2-[(para-benzoyl)-phenoxy]-2-methyl-propionic acid
26 g (0.1 mole) of 2-[(para-bromo)-phenoxy]-2-methyl-propionic acid is dissolved in 200 cc of anhydrous THF and placed in a 500 cc flask. The mixture is cooled in an ice bath and 0.2 mole of methylmagnesium iodide (prepared in solution of THF) is added slowly. After this addition, the temperature is allowed to rise and the mixture stirred at ambient temperature for 11/2 hours. Then slowly and drop by drop a solution of 4.1 g (0.1 mole) of benzonitrile in 20 cc of THF is added and the mixture is stirred for 2 hours 30 minutes at ambient temperature. The reaction mixture is poured on to 500 cc of 10% hydrochloric acid, cooled by 500 g of ice, and vigorously stirred. The reaction mixture is extracted with ether and the ethereal phases are washed, dried and decolorised. The ether solvent is evaporated under vacuum and the oily residue placed in a desiccator under vacuum. 2-[(para-benzoyl)-phenoxy]-2-methylpropionic acid slowly crystallises (22 g). The yield is 77% and the melting point 130° C.

reactant | 2-[(para-bromo)-phenoxy]-2-methyl-propionic acid | 0.1 mole, 26 g | BrC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C10H11BrO3
reactant | methylmagnesium iodide | 0.2 mole | C[Mg]I
reactant | benzonitrile | 0.1 mole, 4.1 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | hydrochloric acid | 500 cc | Cl | ClH
reactant | THF | 200 cc | C1CCOC1 | C4H8O
reactant | THF | 20 cc | C1CCOC1 | C4H8O
product | 2-[(para-benzoyl)-phenoxy]-2-methyl-propionic acid | yield is 77% | C(C1=CC=CC=C1)(=O)C1=CC=C(OC(C(=O)O)(C)C)C=C1 | C17H16O4
